data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3396,3863,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:11]=[C:10]1[C:8]([CH3:7])=[O:9],water,298.15,21.709945942945968,-35.626784081740496
3235,3652,[CH3:10][C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])=[N:12][N:13]1[C:14]([CH3:15])=[O:16],water,298.15,24.06483341640024,-30.629376045637013
1039,1132,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]([CH3:15])=[O:16])[N+:17]([CH3:18])=[C:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:19]([CH3:20])([C:21](=[O:22])[O:23][CH3:24])[N:17]([CH3:18])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,25.32005113886179,-42.825581244776224
2344,2602,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][N-:21][C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:20][N:21]3[C:22]([CH3:23])=[O:24],water,298.15,14.341325905897332,-52.70339686389416
1059,1154,[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]([CH3:13])=[O:14])=[N+:15]([CH3:16])[C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[N:15]([CH3:16])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]([CH3:13])=[O:14],water,298.15,32.159855220937125,-46.99424070839267
468,510,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH2:11][N:12]([CH3:13])[C:14]3([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20],water,298.15,17.235688147538497,-29.97443734538805
900,973,[CH3:16][O:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[N+:23]#[N:24].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([O:17][CH3:16])=[O:19])([C:21]#[N:22])[N:23]=[N:24]2,water,298.15,27.32752474748324,-1.9448662689222
4394,5021,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[O:16][CH3:17])=[N+:18]([CH3:19])[N-:20][C:21]([CH3:22])=[O:23]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:20]([C:21]([CH3:22])=[O:23])[N:18]([CH3:19])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][CH3:17],water,298.15,20.9164660317752,-14.073291718278384
2067,2294,[CH3:17][CH-:18][NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[NH:19][CH:18]1[CH3:17],water,298.15,19.520573175686888,3.307577097111898
5077,5765,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][n+:16]1[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[o:24][c:25](=[O:26])[c-:27]1[C:28]#[N:29]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:27]1([C:28]#[N:29])[N:16]([CH3:15])[C:17]2([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:24][C:25]1=[O:26],water,298.15,35.3031294391849,21.623794337217326
1984,2204,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24]([C:25]#[N:26])=[NH+:27][N-:28][C:29]#[N:30]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:24]([CH3:23])([C:25]#[N:26])[NH:27][N:28]2[C:29]#[N:30],water,298.15,21.32133075349541,-19.235536600493752
